US05410049
EXAMPLE 6: N-[3(R)-5-Cyclohexyl-2,3-dihydro-1 -methyl-2-oxo-1H- 1,4-benzodiazepin-3-yl]N'-[3-(2,5-dihydro-4-hydroxy-2oxopyrrol-3-yl)phenyl]urea
3-(3-Aminophenyl)-1,5-dihydro-4-hydroxy-2H-pyrrol-2-one (409 mg, 2.15 mmol) was suspended in anhydrous tetrahydrofuran (40 ml), under an atmosphere of nitrogen. Triethylamine (296 μl, 2.14 mmol) was then added dropwise over rain and the mixture stirred for a further 2 min. The mixture was then cooled to 0° C. and triphosgene (210 mg, 0.71 mmol) was added and the mixture stirred for 2 min. Triethylamine (595 μl, 4.3 mmol) was then added over a 5 min period and the mixture stirred at 0° C. for a further 5 min. The cooling bath was removed and the mixture stirred at ambient temperature for 10 min. The mixture was then cooled back to 0° C. and a solution of (R)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (400 mg, 1.47 mmol) in anhydrous tetrahydrofuran (5 ml) was added dropwise. The mixture was stirred at 0° C. for 5 rain then allowed to warm to room temperature and stirred for 30 min. The residue was then evaporated in vacuo and the residue chromatographed on silica gel, using 94:6:0.6 dichloromethane:methanol:acetic acid as the eluant. The title compound (140 mg, 20%) was isolated as a white solid. mp 220° C. (dec.). 1H NMR (360MHz, D6 -DMSO) δ0.90 (1H, m), 1.09-1.91 (9H, m), 2.93 (1H, m), 3.32 (3H, s), 3.82 (2H, s), 5.07 (1H, d, J=8Hz), 7.13 (1H, t, J=8Hz), 7.23 (1H, d, J =8Hz), 7.35-7.39 (2H, m), 7.53-7.65 (3H, m), 7.74 (1H, d, J=8Hz), 7.85 (1H, s), 8.97 (1H, s).

reactant | 3-(3-Aminophenyl)-1,5-dihydro-4-hydroxy-2H-pyrrol-2-one | 2.15 mmol, 409 mg | NC=1C=C(C=CC1)C=1C(NCC1O)=O | C10H10N2O2
reactant | Triethylamine | 2.14 mmol, 296 μl | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.71 mmol, 210 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Triethylamine | 4.3 mmol, 595 μl | C(C)N(CC)CC | C6H15N
reactant | (R)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 1.47 mmol, 400 mg | N[C@H]1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O | C16H21N3O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[3(R)-5-Cyclohexyl-2,3-dihydro-1 -methyl-2-oxo-1H- 1,4-benzodiazepin-3-yl]N'-[3-(2,5-dihydro-4-hydroxy-2oxopyrrol-3-yl)phenyl]urea | 140 mg, 20% | C1CCCC(C1)[C@@]1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)C=2C(NCC2O)=O | C27H29N5O4
